US04152433
To a suspension of 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), (4.8 g.) in water (48 ml.) was added dropwise 1N aqueous sodium hydroxide solution at the rate that the pH value of the mixture was not more than 7. The mixture was filtered and then lyophilized to give sodium 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), which can be represented as sodium 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), (4.8 g.), mp>250° C. This compound is suspended in dried dimethylformamide (20 ml.), and to the suspension was added iodomethyl pivalate (2.30 g.) with vigorous stirring under cooling to 3° to 5° C., and then the mixture was stirred for 20 minutes at the same temperature. The reaction mixture was poured into a mixture of ethyl acetate (60 ml.) and ice-water (10 ml.), and the mixture was well shaken. The ethyl acetate layer was separated, washed with a saturated aqueous sodium bicarbonate solution, water and a saturated aqueous sodium chloride solution in turn. After the ethyl acetate layer was dried over magnesium sulfate, ethyl acetate was distilled off under reduced pressure. The residual oil was pulverized in diethyl ether (25 ml.), collected by filtration and then dried to give pivaloyloxymethyl 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), which can be represented as pivaloyloxymethyl 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), (1.44 g.), mp 165° to 170° C. (dec.).

reactant | 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O | C14H15N5O5S2
reactant | 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2NC(SC2)=N)=NOC)=O)=O | C14H15N5O5S2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 48 ml | O | H2O
product | sodium 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)[O-])C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O.[Na+] | InChI=1S/C14H15N5O5S2.Na/c1-5-3-7(13(22)23)19-11(21)9(12(19)26-5)17-10(20)8(18-24-2)6-4-25-14(15)16-6;/h3-5,9,12H,1-2H3,(H2,15,16)(H,17,20)(H,22,23);/q;+1/p-1/t5?,9?,12-;/m1./s1
